US05489591
Cyanuric chloride (11.0 g, 59.6 mmol) was dissolved in ethylene glycol dimethyl ether (100 ml), cooled to -5° C. and gradually added dropwise with 50% aqueous dimethylamine solution (10.8 ml, 120 mmol). This reaction mixture was stirred at the same temperature for 2 hours and then stirred at room temperature overnight. The reaction mixture was evaporated under reduced pressure. The residue obtained was added with dichloromethane and water, and then was shaken for mixing. The organic layer was separated, washed with water and dried over anhydrous magnesium sulfate. The solvent was removed to obtain 11.0 g (yield: 95.4%) of 2,4-dichloro-6-dimethylamino-1,3,5-triazine as colorless crystals having melting point of 122.5° C.-123° C.

reactant | Cyanuric chloride | 59.6 mmol, 11.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | dimethylamine | 120 mmol, 10.8 ml | CNC | C2H7N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | water | O | H2O
solvent | ethylene glycol dimethyl ether | 100 ml | COCCOC | C4H10O2
product | 2,4-dichloro-6-dimethylamino-1,3,5-triazine | 11.0 g, yield: 95.4% | ClC1=NC(=NC(=N1)Cl)N(C)C | C5H6Cl2N4
